US04029508
Preparation of Dodecyl 3-Nitro-4-hydroxybenzoate
A solution of 10 g of dodecyl 4-hydroxybenzoate and 60 ml of acetic acid was heated at 30° to 35° C. and a solution of 2 ml of fuming nitric acid and 10 ml of acetic acid was added dropwise thereto over a 20 minute period with stirring. After the completion of the addition, the mixture was stirred for 1 hour. The crystals deposited in the reaction mixture were collected by filtration, washed with water and recrystallized from ethanol to obtain 11.0 g (yield 95.8%) of the desired compound having a melting point of 70° C.

reactant | dodecyl 4-hydroxybenzoate | 10 g | OC1=CC=C(C(=O)OCCCCCCCCCCCC)C=C1 | C19H30O3
reactant | nitric acid | 2 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | Dodecyl 3-Nitro-4-hydroxybenzoate | 11.0 g, yield 95.8% | [N+](=O)([O-])C=1C=C(C(=O)OCCCCCCCCCCCC)C=CC1O | C19H29NO5
